US06780878B2
F. 5-chloro-2-(piperidin-4-ylmethylamino)-N-(2-pyridyl)benzamide
A solution of 2-(1-Boc-piperidin-4-ylmethylamino)-5-chloro-N-(2-pyridyl)benzamide (6.1 g, 14 mmol) in trifluoroacetic acid (125 mL) was stirred at 70° C. for 2 h, then at room temperature for 24 h. The solution was concentrated in vacuo, and the residue was directly applied to a silica gel column. Elution with dichloromethane −2 M ammonia in methanol (9:1) afforded 4.2 g (89%) of the pure title compound as a yellow solid.

reactant | 2-(1-Boc-piperidin-4-ylmethylamino)-5-chloro-N-(2-pyridyl)benzamide | 14 mmol, 6.1 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CNC1=C(C(=O)NC2=NC=CC=C2)C=C(C=C1)Cl | C23H29ClN4O3
solvent | trifluoroacetic acid | 125 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-chloro-2-(piperidin-4-ylmethylamino)-N-(2-pyridyl)benzamide | 4.2 g, 89% | ClC=1C=CC(=C(C(=O)NC2=NC=CC=C2)C1)NCC1CCNCC1 | C18H21ClN4O
